US04613613
Synthesis of α-(p-n-butylbenzoylthiomethyl)-β-phenyl-γ-butyrolactone (Compound No. 64) (Ib)
To a solution of 1.5 g of α-mercaptomethyl-β-phenyl-γ-butyrolactone in 30 ml of ethyl ether were added at room temperature 4.3 g of p-n-butylbenzoyl chloride and then 1.9 ml of pyridine. The mixture was kept at room temperature for 2.5 hours. After completion of the reaction, the reaction mixture was diluted with 100 ml of ethyl ether, washed with 10% hydrochloric acid, 10% aqueous sodium hydrogen carbonate and then satureated saline, dried over magnesium sulfate and the solvent was distilled off. The crude product thus obtained was purified by a silica gel column chromatography to give 2.1 g (yield 79%) of the title compound.

reactant | α-mercaptomethyl-β-phenyl-γ-butyrolactone | 1.5 g | SCC1C(=O)OCC1C1=CC=CC=C1 | C11H12O2S
reactant | p-n-butylbenzoyl chloride | 4.3 g | C(CCC)C1=CC=C(C(=O)Cl)C=C1 | C11H13ClO
reactant | pyridine | 1.9 ml | N1=CC=CC=C1 | C5H5N
solvent | ethyl ether | 30 ml | C(C)OCC | C4H10O
solvent | ethyl ether | 100 ml | C(C)OCC | C4H10O
product | α-(p-n-butylbenzoylthiomethyl)-β-phenyl-γ-butyrolactone | 2.1 g, yield 79% | C(CCC)C1=CC=C(C(=O)SCC2C(=O)OCC2C2=CC=CC=C2)C=C1 | C22H24O3S
